US04526704
0.40 g of 4-hydroxy-4'-(trans-4-pentylcyclohexyl)biphenyl, 0.21 g of trans-4-propylcyclohexanecarboxylic acid and 0.025 g of (4-dimethylamino)pyridine were dissolved in 25 ml of dichloromethane and then 0.31 g of N,N'-dicyclohexylcarbodiimide was added portionwise within 10 minutes while stirring. The mixture was left to stand at room temperature for 3 days and then the precipitate was filtered off. The filtrate was diluted with dichloromethane, washed twice with 20 ml of saturated sodium bicarbonate solution each time and then with water, dried over sodium sulphate and concentrated. The crude trans-4-propylcyclohexanecarboxylic acid 4'-(trans-4-pentylcyclohexyl)-4-biphenylyl ester obtained was chromatographed on silica gel with hexane/dioxane (volume ratio 19:1). The fractions which were pure according to thin-layer chromatography were pooled and recrystallized from ethyl acetate. Yield 0.33 g; m.p. (C-S) 92° C., cl.p. (N-I) 319° C.; further phase transitions: S-S 154° C., S-S 218.5° C., S-N 240° C.

reactant | 4-hydroxy-4'-(trans-4-pentylcyclohexyl)biphenyl | 0.40 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CCCCC | C23H30O
reactant | trans-4-propylcyclohexanecarboxylic acid | 0.21 g | C(CC)[C@@H]1CC[C@H](CC1)C(=O)O | C10H18O2
reactant | N,N'-dicyclohexylcarbodiimide | 0.31 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | trans-4-propylcyclohexanecarboxylic acid 4'-(trans-4-pentylcyclohexyl)-4-biphenylyl ester | C(CCCC)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)OC(=O)[C@@H]1CC[C@H](CC1)CCC | C33H46O2
